US07250535B2
In a 500 ml four-necked flask thoroughly purged with nitrogen, 18.1 g (0.1 mol) of di-tert-butylphosphinous chloride, 0.20 g (0.002 mol (corresponding to 2% by mol)) of copper(I) chloride, 20 ml of tetrahydrofuran and 20 ml of toluene were placed. To the contents of the flask, a Grignard reagent solution previously prepared from 24.8 g (0.12 mol) of 1-bromonaphthalene and 3.5 g (0.14 mol) of metallic magnesium in 180 ml of tetrahydrofuran was dropwise added over a period of 1 hour with maintaining the temperature at 25° C. to 30° C. After the dropwise addition was completed, stirring was conducted at 65° C. for 3 hours. After the temperature of the reaction solution was returned to room temperature, disappearance of di-tert-butylphosphinous chloride was confirmed by gas chromatography. Thereafter, 30 ml of toluene and 30 ml of a 5% sulfuric acid aqueous solution were added to the reaction solution to perform liquid separation. Then, the organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain an oily substance. The oily substance was recrystallized from 150 ml of methanol to obtain 23.6 g (purity: 98.5%) of the aimed di-tert-butyl(1-naphthyl)phosphine as white crystals. The yield was 85.4%. Melting point: 95-97° C.

reactant | di-tert-butylphosphinous chloride | 0.1 mol, 18.1 g | C(C)(C)(C)P(C(C)(C)C)Cl | C8H18ClP
reactant | 1-bromonaphthalene | 0.12 mol, 24.8 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | magnesium | 0.14 mol, 3.5 g | [Mg] | Mg
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
catalyst | copper(I) chloride | 0.002 mol, 0.20 g | [Cu]Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | di-tert-butyl(1-naphthyl)phosphine | 23.6 g, yield was 85.4% | C(C)(C)(C)P(C1=CC=CC2=CC=CC=C12)C(C)(C)C | C18H25P
